US06008213
f) Ethyl (±)-3-[3-[[(2-aminophenyl)amino]carbonyl]prop-1-yl]-5H-dibenzo[a,d]cycloheptene-10-acetate
A solution of ethyl (±)-3-[3-carboxy-1-propyl]-5H-dibenzo[a,d]cycloheptene-10-acetate (233.7 mg, 0.64 mmole) in dry THF (6.4 mL) was cooled to 0° C. under argon, and 4-methylmorpholine (0.14 mL, 1.28 mmole) was added. The solution was stirred at 0° C. for several min, then isobutyl chloroformate (0.11 mL, 0.83 mmole) was added dropwise. The cloudy reaction was stirred at 0° C. for 0.5 hr, then a solution of 1,2-phenylenediamine (138 mg, 1.28 mmole) in dry THF (0.6 mL) was added rapidly. The reaction was warmed to RT and stirred for 3 hr, then was diluted with H2O (2 mL) and extracted with EtOAc. Drying (MgSO4), concentration, and silica gel chromatography (3:2 EtOAc/hexanes) gave the title compound (257.6 mg, 88%) as a light yellow foam: TLC (3:2 EtOAc/hexanes) Rf 0.40; 1H NMR (250 MHz, CDCl3) δ 6.90-7.23 (m, 10 H), 6.72-6.80 (m, 2 H), 4.33 (d, J=15.0 Hz, 1 H), 4.10-4.25 (m, 2 H), 3.71-3.91 (m, 4 H), 3.32 (dd, J=15.1, 4.0 Hz, 1 H), 2.95 (dd, J=15.1, 9.5 Hz, 1 H), 2.59-2.72 (m, 3 H), 2.54 (dd, J=15.6,9.5 Hz, 1 H), 2.34 (t, J=7.4 Hz, 2 H), 1.98-2.09 (m, 2 H), 1.27 (t, J=7.1 Hz, 3 H); MS (ES) m/e 457 (M+H)+.

reactant | ethyl (±)-3-[3-carboxy-1-propyl]-5H-dibenzo[a,d]cycloheptene-10-acetate | 0.64 mmole, 233.7 mg | C(=O)(O)CCCC=1C=CC2=C(CC3=C(C(=C2)CC(=O)OCC)C=CC=C3)C1 | C23H24O4
reactant | 4-methylmorpholine | 1.28 mmole, 0.14 mL | CN1CCOCC1 | C5H11NO
reactant | isobutyl chloroformate | 0.83 mmole, 0.11 mL | ClC(=O)OCC(C)C | C5H9ClO2
reactant | 1,2-phenylenediamine | 1.28 mmole, 138 mg | C1(=C(C=CC=C1)N)N | C6H8N2
solvent | THF | 6.4 mL | C1CCOC1 | C4H8O
solvent | THF | 0.6 mL | C1CCOC1 | C4H8O
solvent | H2O | 2 mL | O | H2O
product | Ethyl (±)-3-[3-[[(2-aminophenyl)amino]carbonyl]prop-1-yl]-5H-dibenzo[a,d]cycloheptene-10-acetate | 257.6 mg, 88% | NC1=C(C=CC=C1)NC(=O)CCCC=1C=CC2=C(CC3=C(C(=C2)CC(=O)OCC)C=CC=C3)C1 | C29H30N2O3
